US07781428B2
To a solution of (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 (100 mg, 0.24 mmol) in N,N-dimethylformamide (3 mL) was added 1-hydroxybenzotriazole (48 mg, 0.36 mmol), triethylamine (0.07 mL, 0.48 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (115 mg, 0.36 mmol). The solution was stirred for fifteen minutes followed by addition of 2-aminoethanesulfonamide (44 mg, 0.36 mmol). The solution was stirred for twenty hours at ambient temperature. The reaction was partitioned between ethyl acetate and water. The organic layer was washed with water and brine and dried over magnesium sulfate. Chromatography (reverse phase, acetonitrile/water) provided (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-N-(2-sulfamoylethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide (yellow solid, 10 mg, 8% yield). LC/MS on 4.6×50 mm C-18 column, tR=5.80 minutes (10 to 90% acetonitrile/water over 6 minutes at 2 mL/minute with detection 254 nm, at 50° C.); ES-MS m/z 526 (M+H).

reactant | (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | 1-hydroxybenzotriazole | 0.36 mmol, 48 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.48 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.36 mmol, 115 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 2-aminoethanesulfonamide | 0.36 mmol, 44 mg | NCCS(=O)(=O)N | C2H8N2O2S
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | (3S,3aR)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-N-(2-sulfamoylethyl)-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxamide | 10 mg, 8% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CC[C@@H]2[C@@H]1C1CCCC1)C=C(C=C3)C(=O)NCCS(N)(=O)=O | C26H28ClN5O3S
